US06479536B1
3-(4-Isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H), 4′-piperidine]hydrochloride
To a solution of 1′-benzyl-3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine] (10.26 g, 23.34 mmol) in tetrahydrofuran (100 ml) was added α-chloroethyl chloroformate (3.76 g, 26.60 mmol) and the resulting mixture was refluxed with heating for 1 hour. The reaction mixture was cooled down to room temperature and concentrated under reduced pressure. Methanol (80 ml) was added into the resulting residue and the mixture was refluxed for 1 hour. The reaction mixture was cooled down to room temperature and concentrated under reduced pressure. The residue was crystallized from ethanol to obtain 7.32 g (81% yield) of the title compound. Melting point: >260° C. (decomposed).

reactant | 1′-benzyl-3-(4-isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H),4′-piperidine] | 23.34 mmol, 10.26 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2C2=CC=C(C=C2)C(C)C)C(=CC(=C1C)C)C | C31H37NO
reactant | α-chloroethyl chloroformate | 26.60 mmol, 3.76 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-(4-Isopropylphenyl)-4,6,7-trimethylspiro[benzofuran-2(3H), 4′-piperidine]hydrochloride | 7.32 g, 81% yield | Cl.C(C)(C)C1=CC=C(C=C1)C1C2=C(OC13CCNCC3)C(=C(C=C2C)C)C | InChI=1S/C24H31NO.ClH/c1-15(2)19-6-8-20(9-7-19)22-21-17(4)14-16(3)18(5)23(21)26-24(22)10-12-25-13-11-24;/h6-9,14-15,22,25H,10-13H2,1-5H3;1H
